US04299821
1.07 g (2.14 mmoles) of Z-Glp-Leu-Pro-NH-Et are dissolved in 30 ml of water, 0.25 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for 1.5 hours. The catalyst is filtered off, the filtrate is evaporated, and the oily residue is dissolved in 20 ml of chloroform. The solution is dried over anhydrous sodium sulfate and then evaporated. A foam-like solid residue is obtained, which is triturated with a mixture of ether and hexane. 0.52 g (66%) of Glp-Leu-Pro-NH-Et are obtained; Rf4 =0.57, [α]D25 =-94.5° (c=1%, in acetic acid).

reactant | Z-Glp-Leu-Pro-NH-Et | 2.14 mmoles, 1.07 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OCC1=CC=CC=C1 | C26H36N4O6
solvent | water | 30 ml | O | H2O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Leu-Pro-NH-Et | 0.52 g, 66% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)NCC)CCC1 | C18H30N4O4
